US04427691
2-{[7-Chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}ethylamine hydrochloride
7-Chloro-3-(2-fluorophenyl)-6-(2-phthalimidoethoxy)-1,2-benzisoxa zole (8.0 g) is heated under reflux for 4 hrs in 75 ml of methanol containing 1.3 g of 85% hydrazine hydrate. The solid is filtered and the methanol is evaporated. The combined solids are distributed between water and ethyl acetate. The organic phase is dried and concentrated under reduced pressure to give 5.30 g (87%) as a glass that crystallizes slowly. The hydrochloride forms smoothly in ether with a trace of methanol as crystals, mp 235°-240°. The analytical sample is recrystallized from propanol/methanol and has mp 240°-243°.

reactant | 7-Chloro-3-(2-fluorophenyl)-6-(2-phthalimidoethoxy)-1,2-benzisoxa zole | 8.0 g | ClC1=C(C=CC=2C(=NOC21)C2=C(C=CC=C2)F)OCCN2C(C=1C(C2=O)=CC=CC1)=O | C23H14ClFN2O4
reactant | hydrazine hydrate | O.NN
solvent | methanol | 75 ml, 1.3 g | CO | CH4O
product | 2-{[7-Chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}ethylamine hydrochloride | Cl.ClC1=C(C=CC=2C(=NOC21)C2=C(C=CC=C2)F)OCCN | InChI=1S/C15H12ClFN2O2.ClH/c16-13-12(20-8-7-18)6-5-10-14(19-21-15(10)13)9-3-1-2-4-11(9)17;/h1-6H,7-8,18H2;1H
